US05919789
1-(2-Methylphenyl)-3-propylurea
2-Toluidine (32.1 g) was dissolved in toluene (500 ml) and propyl isocyanate (25.2 g) was added in one portion with stirring. The mixture was stirred for 1 h and then allowed to stand at room temperature for 6 h. The solid was collected by filtration and washed with toluene to provide the title compound (36.5 g).

reactant | 2-Toluidine | 32.1 g | NC=1C(=CC=CC1)C | C7H9N
reactant | propyl isocyanate | 25.2 g | C(CC)N=C=O | C4H7NO
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2-Methylphenyl)-3-propylurea | 36.5 g | CC1=C(C=CC=C1)NC(=O)NCCC | C11H16N2O
